US06897231B2
A. N-(3-{1-Perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)-3-phenylpropanamide
To a solution of 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine (0.150 g, 0.248 mmol) in 2.5 mL of tetrahydrofuran was added 3-phenyl propanoyl chloride (0.084 g, 0.498 mmol), followed by triethyl amine (0.173 mL, 1.24 mmol). The reaction was stirred at room temperature for 2 hours. The reaction mixture was then partitioned between ethyl acetate and water. (Yield not calculated) ES-MS (m/z) 735 [M+H]+.

reactant | 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine | 0.248 mmol, 0.150 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)N | C39H34N6O
reactant | 3-phenyl propanoyl chloride | 0.498 mmol, 0.084 g | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
reactant | triethyl amine | 1.24 mmol, 0.173 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | N-(3-{1-Perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)-3-phenylpropanamide | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)NC(CCC1=CC=CC=C1)=O | C48H42N6O2
